US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)picolinamide was prepared using the method of Example 34(d) starting from picolinic acid (0.227 g, 1.841 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.4 g, 1.534 mmol). Yield 73.7%. 1H-NMR (400 MHz; CDCl3): δ 1.26 (d, 3H), 4.31 (dd, 1H), 4.45 (dd, 1H), 4.62 (m, 1H), 6.63 (d, 1H), 7.46 (m, 1H), 7.50 (d, 1H), 7.67 (d, 1H), 7.81 (dd, 1H), 7.86 (m, 1H), 8.09 (d, 1H), 8.19 (m, 1H), 8.65 (m, 1H), 8.86 (d, 1H).

reactant | picolinic acid | 1.841 mmol, 0.227 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 1.534 mmol, 0.4 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)picolinamide | Yield 73.7% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(C1=NC=CC=C1)=O | C19H16ClN5O
